US07273877B2
1-Methyl-4-(2-naphthylamino)-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid and pentafluorophenyl trifluoroacetate were reacted in the presence of pyridine in THF as for example 4, step A. The crude residue was purified by flash chromatography on silica gel (60% EtOAc/Hexane) to give 2,3,4,5,6-pentafluorophenyl 1-methyl-4-(2-naphthylamino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate (97%). 1H NMR [400 MHz, (CD3)2SO]δ 9.06 (s, 1H), 8.97 (s, 1H), 7.98 (d, J=8.8 Hz, 1H), 7.92 (t, J=9.0 Hz, 2H), 7.85 (d, J=1.9 Hz, 1H), 7.56-7.46 (m, 3H), 5.73 (s, 1H), 3.51 (s, 3H).

reactant | 1-Methyl-4-(2-naphthylamino)-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | CN1C=C(C(=CC1=O)NC1=CC2=CC=CC=C2C=C1)C(=O)O | C17H14N2O3
reactant | pentafluorophenyl trifluoroacetate | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | THF | C1CCOC1 | C4H8O
product | 2,3,4,5,6-pentafluorophenyl 1-methyl-4-(2-naphthylamino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate | 97% | CN1C=C(C(=CC1=O)NC1=CC2=CC=CC=C2C=C1)C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C23H13F5N2O3
